US06784137B2
A mixture of 4,5,6-trichloropyridine-2-carbonitrile (4.77 g, 23.0 mmol), azidotrimethylsilane (6.1 mL, 46.0 mmol) and dibutyltin oxide (0.57 g, 2.3 mmol) in toluene (75 mL) was heated to 90° C. After 3 hours, the reaction mixture was heated to reflux. After 7 hours, azidotrimethylsilane (0.5 mL, 3.8 mmol) and dibutyltin oxide (100 mg, 0.4 mmol) were added to drive the reaction to completion. After a short time, the volatiles were removed, and then the residue was taken up in methanol (50 mL) and stirred briefly at 25° C. The volatiles were removed and the residue was partitioned between saturated aq. NaHCO3 (200 mL), ethyl acetate (200 mL) and diethyl ether (100 mL). The layers were carefully separated in order to retain the insoluble white material in the aqueous fraction. The aqueous fraction then was acidified to pH 2 with concentrated HCl while stirring vigorously. The white precipitate was collected, washed with water and dried to provide 2,3,4-trichloro-6-(1H-tetrazol-5-yl)pyridine (5.4 g, 21.6 mmol), mp 197-198° C.

reactant | 4,5,6-trichloropyridine-2-carbonitrile | 23.0 mmol, 4.77 g | ClC1=CC(=NC(=C1Cl)Cl)C#N | C6HCl3N2
reactant | azidotrimethylsilane | 46.0 mmol, 6.1 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 2.3 mmol, 0.57 g | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 3.8 mmol, 0.5 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dibutyltin oxide | 0.4 mmol, 100 mg | C(CCC)[Sn](CCCC)=O
product | 2,3,4-trichloro-6-(1H-tetrazol-5-yl)pyridine | 21.6 mmol, 5.4 g | ClC1=NC(=CC(=C1Cl)Cl)C1=NN=NN1 | C6H2Cl3N5
